US08212041B2
A 500 mL RB flask was charged with aluminum(III) chloride (4.1 g, 31 mmol) and 10 mL of 1,2-dichloroethane (90 ml, 1142 mmol), then cooled to 0° C. A separate 250 mL flask was charged with 90 mL of 1,2-dichloroethane (90 ml, 1142 mmol) and cooled to 0° C.; methylamine (gas) (1.8 g, 59 mmol) was bubbled through the solution for 10 minutes. The dichloroethane solution was slowly poured into the aluminum chloride solution, resulting in the formation of a thick white slush. This was warmed to room temperature. 5-bromoisobenzofuran-1(3H)-one (5.00 g, 23 mmol) was added in one portion and the reaction mixture was stirred for 2.5 hours and quenched with water. The mixture was filtered to remove the solid impurities, then the filtrate was washed with 0.5N aqueous HCl (100 mL) and brine (200 mL). The organic layer was dried with MgSO4, filtered, and concentrated to give a white solid. This was triturated with EtOAc and filtered to give 4-bromo-2-(hydroxymethyl)-N-methylbenzamide (3.34 g, 58% yield) as a white solid.

reactant | aluminum(III) chloride | 31 mmol, 4.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dichloroethane | 1142 mmol, 10 mL | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 1142 mmol, 90 mL | ClCCCl | C2H4Cl2
reactant | methylamine | 59 mmol, 1.8 g | CN | CH5N
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | 5-bromoisobenzofuran-1(3H)-one | 23 mmol, 5.00 g | BrC=1C=C2COC(C2=CC1)=O | C8H5BrO2
product | 4-bromo-2-(hydroxymethyl)-N-methylbenzamide | 3.34 g, 58% yield | BrC1=CC(=C(C(=O)NC)C=C1)CO | C9H10BrNO2
